US08476294B2
Stage 163.1.2 (5-Bromo-2-methyl-pyridin-3-yl)-methyl-amine
To a solution of 5-bromo-2-methyl-pyridin-3-ylamine (Stage 75.1.4, 3.81 mmol) in THF (25 ml) cooled with an ice-bath was added 1 M bis(trimethylsilyl)amide in THF (4.38 mmol). The RM was stirred for 1 h at rt then was added iodomethane (4.38 mmol). The RM was stirred for 1 h at rt. The RM was cooled with an ice-bath and was added 1 M bis(trimethylsilyl)amide in THF (1.9 mmol). The RM was stirred for 30 min at it then was added iodomethane (1.9 mmol). The RM was stirred for 1 h at it then was diluted with EtOAc and washed with aqueous Na2CO3, with brine, dried over Na2SO4, filtered and evaporated. The residue was taken in MeOH and separated by preparative HPLC. The first eluting pure fractions containing product were basified with NaHCO3, concentrated and extracted with dichloromethane (2×). The combined fractions were washed with brine, dried over Na2SO4, filtered and evaporated to give the title compound as a brown oil (HPLC: tR 1.88 min (Method A); M+H=201, 203 MS-ES). The second eluting pure fractions, that contained (5-bromo-2-methyl-pyridin-3-yl)-dimethyl-amine side product, were basified with NaHCO3, concentrated and extracted with dichloromethane (2×). The combined fractions were washed with brine, dried over Na2SO4, filtered and evaporated to give the title compound as a brown oil (HPLC: tR 2.01 min (Method A); M+H=215, 217 MS-ES).

reactant | (5-bromo-2-methyl-pyridin-3-yl)-dimethyl-amine | BrC=1C=C(C(=NC1)C)N(C)C | C8H11BrN2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | (5-Bromo-2-methyl-pyridin-3-yl)-methyl-amine | BrC=1C=C(C(=NC1)C)NC | C7H9BrN2
